US07186730B2
(a) 6-(2-Chloro-ethyl)-2,3-dihydro-benzo[1,4]dioxine
A solution of 2-chloro-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone (0.5 g) in trifluoroacetic acid/triethylsilane (4 ml/1.3 ml) was stirred overnight then partitioned between dichloromethane and dilute aqueous sodium bicarbonate solution. The organic extract was dried and evaporated to give a brown oil (0.42 g) This was chromatographed on silica eluting with a dichloromethane/petroleum ether gradient affording the product as a clear oil (0.23 g).

reactant | 2-chloro-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone | 0.5 g | ClCC(=O)C1=CC2=C(OCCO2)C=C1 | C10H9ClO3
solvent | trifluoroacetic acid triethylsilane | 4 ml | FC(C(=O)O)(F)F.C(C)[SiH](CC)CC
product | 6-(2-Chloro-ethyl)-2,3-dihydro-benzo[1,4]dioxine | 0.42 g | ClCCC1=CC2=C(OCCO2)C=C1 | C10H11ClO2
